US07378418B2
Preparation of 2-(4-(Trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 2-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (28 mg, 0.053 mmol), prepared as described in Example 469 in CH2Cl2 (0.5 mL) at RT was added DDQ (15 mg, 0.064 mmol). The reaction was stirred at RT for 1 h. LC-MS showed the completion of the reaction. The reaction mixture was concentrated under reduced pressure. The resulting residue was purified by using silica gel column chromatography using an automated system eluting with a gradient of (0% to 80% EtOAc for 20 min.) to give the title compound, 2-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (23 mg, 84% yield) as a yellow solid in 84% yield. HPLC retention time: 4.18 min; MS [M+H]+: found 529. 1H NMR (CDCl3, 400 MHz) δ 7.61 (d, 2H), 7.52 (d, 2H), 7.35 (dd, 2H), 7.27 (dd, 2H), 7.16 (dd, 2H), 7.02 (dd, 2H), 5.28 (s, 2H), 2.29 (s, 3H).

reactant | 2-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-6-methyl-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.053 mmol, 28 mg | FC(C1=CC=C(CN2N=C3N(NC(C(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)C)C2=O)C=C1)(F)F | C26H19Cl2F3N4O
reactant | DDQ | 0.064 mmol, 15 mg | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(trifluoromethyl)benzyl)-7,8-bis(4-chlorophenyl)-6-methyl-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 23 mg, 84% yield | FC(C1=CC=C(CN2N=C3N(N=C(C(=C3C3=CC=C(C=C3)Cl)C3=CC=C(C=C3)Cl)C)C2=O)C=C1)(F)F | C26H17Cl2F3N4O
